US20010021718A1
(3R)-6-Cyclohexyl-N-hydroxy-3-[3-(1-pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanamide
A solution of (3R)-6-cyclohexyl-3-[3-(1-pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 13) (288 mg, 0.79 mmol) and N,N-diisopropylethylamine (138 μl, 0.79 mmol) in N,N-dimethylformamide (6ml) was treated with O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (452 mg, 1.19 mmol) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour. Further N,N-diisopropylethylamine (552 μl, 3.16 mmol) was then added, followed by the hydroxylamine hydrochloride (165 mg, 2.38 mmol) and the mixture stirred at room temperature for 18 hours. The solvent was removed under reduced pressure and the residue wasa partitioned between ethyl acetate and pH 7 aqueous buffer. The organic layer was separated, washed sequentially with water and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (98:2) to afford the title compound as a foam (126 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(1-pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 0.79 mmol, 288 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CCCC1 | C19H29N3O4
reactant | N,N-diisopropylethylamine | 0.79 mmol, 138 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.19 mmol, 452 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 3.16 mmol, 552 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydroxylamine hydrochloride | 2.38 mmol, 165 mg | Cl.NO
solvent | N,N-dimethylformamide | 6ml | CN(C=O)C | C3H7NO
product | (3R)-6-Cyclohexyl-N-hydroxy-3-[3-(1-pyrrolidinylcarbonyl)-1,2,4-oxadiazol-5-yl]hexanamide | 126 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N1CCCC1 | C19H30N4O4
